US04060615
N-(Cyclopentylcarbonyl)piperazine (0.02 mole) and 2-chloro-4-hydrazino-6,7-dimethoxyquinazoline (0.02 mole) reacted according to the procedure of Example 7 provides 4-hydrazino-2-[4-(cyclopentylcarbonyl)-1-piperazinyl]-6,7-dimethoxyquinazolinehydrochloride, m.p. 282°-284° C.

reactant | N-(Cyclopentylcarbonyl)piperazine | 0.02 mole | C1(CCCC1)C(=O)N1CCNCC1 | C10H18N2O
reactant | 2-chloro-4-hydrazino-6,7-dimethoxyquinazoline | 0.02 mole | ClC1=NC2=CC(=C(C=C2C(=N1)NN)OC)OC | C10H11ClN4O2
product | 4-hydrazino-2-[4-(cyclopentylcarbonyl)-1-piperazinyl]-6,7-dimethoxyquinazolinehydrochloride | Cl.N(N)C1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C1CCCC1 | InChI=1S/C20H28N6O3.ClH/c1-28-16-11-14-15(12-17(16)29-2)22-20(23-18(14)24-21)26-9-7-25(8-10-26)19(27)13-5-3-4-6-13;/h11-13H,3-10,21H2,1-2H3,(H,22,23,24);1H
